US04526787
A mixture of 5.0 g (45.0 mmol) of SeO2 and 4.25 g (20.7 mmol) of 1-(2-carbethoxy-5-pyridyl)-2-methyl-1-propene in 50 mL of dioxane and 2 mL of H2O was degassed three times under argon and then heated at 100° C. for 2 h. The mixture was filtered through Celite and washed with dioxane. The filtrate was concentrated and chromatographed on 150 g of silica gel (50% EtOAc/hexane and 75% EtOAc/hexane) to give 2.95 g of 3-(2-carbethoxy-5-pyridyl)-2-methyl-2-propenal as a yellow solid. Analytical LC (Radialpak B, 25% EtOAc/hexane) indicated about 5% of the Z isomer was present. Recrystallization from EtOAc/hexane gave 2.4 g (53% yield) of the pure E isomer as white crystals, mp 72°-73° C.; IR (mull) 1740, 1700, 1330, 1300, 1260, 1200, 1170, 1140, 1120, 1020, 920, 880, 830, 810, 720 cm-1 ; 1H NMR (CDCl3) δ1.50 (t, J=7 Hz, 3, CO2CH2CH3), 2.10 (s, 3, C=CCH3), 4.50 (q, J=7 Hz, 2, CO2CH2CH3), 7.35 (s, 1, C=CH), 8.02 (dd, J=2 Hz, J=8 Hz, 1, 4'--H), 8.27 (d, J=8 Hz, 1, 3'--H), 8.93 (d, J=1 Hz, 1, 6'--H), 9.70 (s, 1, CHO); MS calcd for C12H13NO3 219.0895, found 219.0907.

reactant | 1-(2-carbethoxy-5-pyridyl)-2-methyl-1-propene | 20.7 mmol, 4.25 g | C(=O)(OCC)C1=NC=C(C=C1)C=C(C)C | C12H15NO2
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
product | 3-(2-carbethoxy-5-pyridyl)-2-methyl-2-propenal | 2.95 g, 53% yield | C(=O)(OCC)C1=NC=C(C=C1)C=C(C=O)C | C12H13NO3
